US06294537B1
A) 1-Benzyl-4-hydroxy-4-(2-methoxyphenyl)piperidine
A solution of 15 g of 2-bromoanisole in 50 ml of THF is cooled to −70° C., under nitrogen, a 1.6 M solution of n-butyllithium in THF is added dropwise and the mixture is kept stirring for 1 hour. The mixture is cooled to −70° C. and a solution of 15.2 g of 1-benzylpiperid-4-one in 50 ml of THF is added dropwise. The mixture is kept stirring while allowing the temperature to rise to RT and after 1 hour, the reaction mixture is concentrated under vacuum. The residue is taken up in AcOEt, the organic phase washed with water, with a saturated solution of NaCl, dried over MgSO4 and the solvent evaporated under vacuum. 14 g of the expected product are obtained after crystallization from the AcOEt/ether/heptane mixture.

reactant | 2-bromoanisole | 15 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-benzylpiperid-4-one | 15.2 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-hydroxy-4-(2-methoxyphenyl)piperidine | 14 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=C(C=CC=C1)OC)O | C19H23NO2
